US09056874B2
1((2-(trimethylsilyl)ethoxy)methyl)-1H-indole-6-carbonitrile
1H-Indole-6-carbonitrile (CAS #:15861-36-6) (1.47 g, 10.34 mmol) was dissolved in DMF (103 mL) and cooled to 0° C. NaH (60% in mineral oil, 0.620 g, 15.51 mmol) was added in one batch. The reaction was allowed to stir at room temperature for 15 minutes. SEMCl (2.38 mL, 13.44 mmol) was added at 0° C. and stirred for 20 minutes. The reaction was quenched with saturated ammonium chloride and then EtOAc was added. The organic layer was removed and the water layer was extracted again with EtOAc. The combined organics were washed with water, dried over MgSO4 filtered and concentrated. The resulting residue was purified via flash chromatography (0-50% EtOAc:heptanes) to obtain title compound. MS (ESI+) m/z 273.23 (M+H).

reactant | 1H-Indole-6-carbonitrile | 10.34 mmol, 1.47 g | N1C=CC2=CC=C(C=C12)C#N | C9H6N2
reactant | NaH | 15.51 mmol, 0.620 g | [H-].[Na+]
reactant | SEMCl | 13.44 mmol, 2.38 mL | C[Si](C)(C)CCOCCl | C6H15ClOSi
solvent | DMF | 103 mL | CN(C)C=O | C3H7NO
product | 1((2-(trimethylsilyl)ethoxy)methyl)-1H-indole-6-carbonitrile | C[Si](CCOCN1C=CC2=CC=C(C=C12)C#N)(C)C | C15H20N2OSi
